US07863310B2
4-Phenylethynyl-N2-(1-(R)-methyl-2,2-dimethylpropyl)benzene-1,2-diamine
Stir (5-Chloro-2-nitrophenyl)-(1-(R)-methyl-2,2-dimethylpropyl)amine (17.23 g, 0.067 mol), copper (I) iodide (0.64 g, 0.0034 mol), (oxydi-2,1-phenylene)bis(diphenylphosphine) (3.61 g, 0.0067 mol), phenylacetylene (12.5 mL, 0.114 mol) in DMF (200 mL) and diethylamine (50 mL) for 5 minutes. Add palladium (II) acetate (0.753 g, 0.0034 mol) and heat to 95° C. for 4 h. Cool to ambient temperature and evaporate off diethylamine under reduced pressure and pour into hexane. Filter insolubles and evaporate off hexane. Dilute with ethyl ether (1 L), filter and wash filtrate with water (2×1 L), saturated sodium chloride, dry magnesium sulfate, concentrate and purify (silica gel chromatography eluting with hexane/dichloromethane mixtures) to give 27.9 g of crude (2-nitro-5-phenylethynylphenyl)-(1-(R)-methyl-2,2-dimethylpropyl)amine that was used in the next step without further purification. To a solution of impure (2-nitro-5-phenylethynylphenyl)-(1-(R)-methyl-2,2-dimethylpropyl)amine (27.9 g) in THF (350 mL), water (100 mL), concentrated ammonium hydroxide (150 mL), Na2S2O4 (73.6 g, 0.423 mol) and stir for about 18 hours. Dilute with ethyl acetate and wash with saturated sodium chloride, dry with magnesium sulfate, concentrate and purify (silica gel chromatography with hexane/dichloromethane mixtures to give 14.51 g of the desired compound (75% for 2 Steps).

reactant | (2-nitro-5-phenylethynylphenyl)-(1-(R)-methyl-2,2-dimethylpropyl)amine | 27.9 g | [N+](=O)([O-])C1=C(C=C(C=C1)C#CC1=CC=CC=C1)N[C@@H](C(C)(C)C)C | C20H22N2O2
reactant | Na2S2O4 | 0.423 mol, 73.6 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ammonium hydroxide | 150 mL | [OH-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Phenylethynyl-N2-(1-(R)-methyl-2,2-dimethylpropyl)benzene-1,2-diamine | 14.51 g, 75% | C1(=CC=CC=C1)C#CC=1C=C(C(=CC1)N)N[C@@H](C(C)(C)C)C | C20H24N2
